US08022223B2
5-(3-Methoxybenzylthio)-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine hydrochloride
Prepared according to the method of Example 16, using methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate and 1-(chloromethyl)-3-methoxybenzene. 1H NMR (d6-DMSO) δ 8.09 (d, 1H), 7.42 (t, 2H), 7.18 (m, 3H), 6.98 (d, 2H), 6.76 (m, 4H), 4.09 (s, 2E), 3.68 (s, 3H), 2.26 (s, 3H); Mass spectrum (esi) m/z=436.2 (M+H-1HCl).

reactant | methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate | CC=1N=C(SC1)NC1=C(C=C(C=N1)SCCC(=O)OC)OC1=CC=CC=C1 | C19H19N3O3S2
reactant | 1-(chloromethyl)-3-methoxybenzene | ClCC1=CC(=CC=C1)OC | C8H9ClO
product | 5-(3-Methoxybenzylthio)-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine hydrochloride | Cl.COC=1C=C(CSC=2C=C(C(=NC2)NC=2SC=C(N2)C)OC2=CC=CC=C2)C=CC1 | InChI=1S/C23H21N3O2S2.ClH/c1-16-14-30-23(25-16)26-22-21(28-18-8-4-3-5-9-18)12-20(13-24-22)29-15-17-7-6-10-19(11-17)27-2;/h3-14H,15H2,1-2H3,(H,24,25,26);1H
